US05589478
A mixture of 2-(6-azidopyrimidin-4-yloxy)ethanol (1.64 g), 10% palladium-carbon (0.25 g) and ethanol (20 ml) is subjected to catalytic hydrogenation at room temperature for one hour under hydrogen atmosphere (1 atm). The catalyst is removed by filtration, and the filtrate is concentrated. The residue is recrystallized from ethanol/diethyl ether to give 2-(6-aminopyrimidin-4-yloxy)ethanol (1.11 g).

reactant | 2-(6-azidopyrimidin-4-yloxy)ethanol | 1.64 g | N(=[N+]=[N-])C1=CC(=NC=N1)OCCO | C6H7N5O2
catalyst | palladium-carbon | 0.25 g | [C].[Pd]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(6-aminopyrimidin-4-yloxy)ethanol | 1.11 g | NC1=CC(=NC=N1)OCCO | C6H9N3O2
